US06717002B2
Synthesis of 6-oxoestrone-methyl Ether
Iodine (508 mg, 2 mmol) and 19-nor-4-androstene-3,17-dione (272 mg, 1 mmol) were dissolved in a mixture of acetonitrile (12 mL) and methanol (3 mL), to thereby form a reaction mixture. The reaction mixture was stirred for two hours while oxygen was introduced (50 mL/min) thereto under cooling in an ice-bath. The resultant mixture was maintained at room temperature, and after stirring of the mixture for a further 1.5 hours, introduction of oxygen was stopped and the mixture was refluxed for one hour. The reaction mixture was cooled to room temperature, and an aqueous solution of sodium thiosulfate was added to the mixture. The mixture was extracted with chloroform, and the organic phase was washed sequentially with an aqueous solution of sodium bicarbonate and saturated brine. The washed matter was dried over magnesium sulfate anhydrate, filtered, and evaporated under reduced pressure. The residue was purified through silica gel column chromatography (chloroform), to thereby yield 230 mg of the title compound (yield: 77%).

reactant | Iodine | 2 mmol, 508 mg | II | I2
reactant | 19-nor-4-androstene-3,17-dione | 1 mmol, 272 mg | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=CC(=O)CC[C@H]34 | C18H24O2
reactant | oxygen | O=O | O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | acetonitrile | 12 mL | C(C)#N | C2H3N
solvent | methanol | 3 mL | CO | CH4O
product | 6-oxoestrone methyl Ether | yield 230 mg, yield: 77% | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC(=O)C4=C3C=CC(=C4)O.COC | InChI=1S/C18H20O3.C2H6O/c1-18-7-6-12-11-3-2-10(19)8-14(11)16(20)9-13(12)15(18)4-5-17(18)21;1-3-2/h2-3,8,12-13,15,19H,4-7,9H2,1H3;1-2H3/t12-,13-,15+,18+;/m1./s1
